US08957093B2
4′-((5-(benzo[d][1,3]dioxol-5-ylmethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Steps 8-9, Example 1, using benzo[d][1,3]dioxol-5-ylmethanamine and 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. LC-MS 533 (M+H).

reactant | benzo[d][1,3]dioxol-5-ylmethanamine | O1COC2=C1C=CC(=C2)CN | C8H9NO2
reactant | 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | 4′-((5-(benzo[d][1,3]dioxol-5-ylmethylcarbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid | O1COC2=C1C=CC(=C2)CNC(=O)C=2C=C1C(=C(N(C1=CC2)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C)C | C33H28N2O5
